US07754728B2
8-Bromo-2-butoxy-9-(4-acetoxybenzyl)adenine (0.29 g, 0.67 mmol) obtained in accordance with the method of Reference example 4 was added to methanol (10 ml) and 5% sodium hydroxide solution (10 ml), and the mixture was stirred at room temperature for 4 hours. After the mixture was neutralized with concentrated hydrochloric acid, the resulting solid was filtered and washed with methanol to give 8-bromo-2-butoxy-9-(4-hydroxybenzyl)adenine (0.19 g, 0.49 mmol, yield: 73%) as a white solid. Thus obtained 8-bromo-2-butoxy-9-(4-hydroxybenzyl)adenine (0.05 g, 0.13 mmol) and potassium carbonate (0.02 g, 0.14 mmol) were added to DMF (10 ml), and then thereto was added ethyl bromoacetate (0.04 g, 0.24 mmol). The mixture was stirred at room temperature for 18 hours. After removing the solvent, the residue was poured into water and extracted with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=100/1˜50/1) to give 8-bromo-2-butoxy-9-(4-ethoxycarbonylmethoxybenzyl)adenine (0.06 g, 0.12 mmol, yield: 96%) as a white solid. And then the captioned compound was obtained in accordance with the method of Example 1, Yield: 80%.

reactant | 8-bromo-2-butoxy-9-(4-hydroxybenzyl)adenine | 0.13 mmol, 0.05 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCCCC)CC1=CC=C(C=C1)O | C16H18BrN5O2
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.24 mmol, 0.04 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 8-bromo-2-butoxy-9-(4-ethoxycarbonylmethoxybenzyl)adenine | 0.12 mmol, 0.06 g, yield: 96% | BrC=1N(C2=NC(=NC(=C2N1)N)OCCCC)CC1=CC=C(C=C1)OCC(=O)OCC | C20H24BrN5O4
